US05705531
To a suspension of 60.0 g of 3-(tert-butyldimethylsilyloxymethyl)bromobenzene (prepared from tert-butyldimethylchlorosilane and 3-bromobenzyl alcohol according to the procedure described by Kendall P. M. et al., J. Org. Chem., 1979, 44, 1421) in 500 ml of anhydrous THF cooled to -78° C., 131 ml of 1.6M n-butyllithium in n-hexane were added under a nitrogen atmosphere and the resulting mixture was stirred for 2.5 hrs. A solution of 6.30 g of (1S,3aS,7aR)-1-hydroxymethyl-3a-hydroxy-7a-methyl-5-perhydroindenone in 60 ml of anhydrous THF was added. After 1 hr the reaction mixture was allowed to warm to 0° C., and cautiously quenched with 300 ml of 5% aqueous NaH2PO4.H2O and extracted with ethyl acetate. The organic layer was dried over sodium sulfate and evaporated to dryness under reduced pressure. The residue was purified by flash-chromatography (SiO2) with n-hexane/acetone/chloroform 6:2:2 as the eluant to give 9.62 g of (1S,3aS,5R,7aR)-1-hydroxymethyl-5-(3-tert-butyldimethylsilyloxymethylphenyl)-7a-methylperhydroinden-3a,5-diol as a white foam.

reactant | 3-(tert-butyldimethylsilyloxymethyl)bromobenzene | 60.0 g | [Si](C)(C)(C(C)(C)C)OCC=1C=C(C=CC1)Br | C13H21BrOSi
reactant | tert-butyldimethylchlorosilane | C(C)(C)(C)[Si](Cl)(C)C | C6H15ClSi
reactant | 3-bromobenzyl alcohol | BrC=1C=C(CO)C=CC1 | C7H7BrO
reactant | n-butyllithium | 1.6M, 131 ml | C(CCC)[Li]
reactant | (1S,3aS,7aR)-1-hydroxymethyl-3a-hydroxy-7a-methyl-5-perhydroindenone | 6.30 g | OC[C@H]1CC[C@@]2(CC(CC[C@]12C)=O)O | C11H18O3
solvent | THF | 500 ml | C1CCOC1 | C4H8O
solvent | n-hexane | CCCCCC | C6H14
solvent | THF | 60 ml | C1CCOC1 | C4H8O
product | (1S,3aS,5R,7aR)-1-hydroxymethyl-5-(3-tert-butyldimethylsilyloxymethylphenyl)-7a-methylperhydroinden-3a,5-diol | 9.62 g | OC[C@H]1CC[C@@]2(C[C@@](CC[C@]12C)(O)C1=CC(=CC=C1)CO[Si](C)(C)C(C)(C)C)O | C24H40O4Si
